US08252797B2
3-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-8-{1-[5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-1H-pyrazol-4-yl}-1-propyl-3,7-dihydro-purine-2,6-dione
1-[5-Oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid {6-amino-1-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-2,4-dioxo-3-propyl-1,2,3,4-tetrahydro-pyrimidin-5-yl}-amide (100 mg, 0.14 mmol) was taken in dry DMF (3 ml) under argon atmosphere, added P2O5 (61.4 mg, 0.43 mmol) and dipped the reaction flask in a oil bath at 100° C. and stirred the reaction mixture for 5 min. Then the reaction mixture was cooled to room temperature and diluted with water and filtered the solid (56 mg, 57%) as pure product.

reactant | 1-[5-Oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid {6-amino-1-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-2,4-dioxo-3-propyl-1,2,3,4-tetrahydro-pyrimidin-5-yl}-amide | 0.14 mmol, 100 mg | NC1=C(C(N(C(N1CCN1C(C2=CC=CC=C2C1=O)=O)=O)CCC)=O)NC(=O)C=1C=NN(C1)CC1CN(C(C1)=O)C1=CC(=CC=C1)C(F)(F)F | C33H31F3N8O6
reactant | P2O5 | 0.43 mmol, 61.4 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-8-{1-[5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-1H-pyrazol-4-yl}-1-propyl-3,7-dihydro-purine-2,6-dione | O=C1N(C(C2=CC=CC=C12)=O)CCN1C(N(C(C=2NC(=NC12)C=1C=NN(C1)CC1CN(C(C1)=O)C1=CC(=CC=C1)C(F)(F)F)=O)CCC)=O | C33H29F3N8O5
